US08624056B2
5-Bromoanthranilic acid (0.30 g, 1.4 mmol) was added to a solution of Meldrum's acid (0.24 g, 1.7 mmol) in toluene (5.0 mL). The reaction flask was fitted with a Dean-Stark apparatus and the suspension was heated to reflux for 3 h. The suspension was cooled, filtered, washed with toluene and dried. Crude 5-bromo-2-[(carboxyacetyl)amino]benzoic acid (0.34 g, 81%) was obtained as a colourless solid; mp 203-206° C.; δH (500 MHz, DMSO-d6) 3.48 (s, 2H, CH2), 7.78 (d, J3,4=8.4 Hz, 1H, H4), 8.04 (s, 1H, H6), 8.40 (d, J3,4=8.4 Hz, 1H, H3), 11.20 (s, 1H, NH), 12.80 (br s, 1H, CO2H); δC (125 MHz, DMSO-d6) 44.7, 114.5, 119.4, 122.5, 133.1, 136.4, 139.4, 164.7, 167.8, 168.9; νmax 1224, 1373, 1520, 1683, 2985 cm−1.

reactant | 5-Bromoanthranilic acid | 1.4 mmol, 0.30 g | BrC1=CC=C(C(C(=O)O)=C1)N | C7H6BrNO2
reactant | Meldrum's acid | 1.7 mmol, 0.24 g | CC1(OC(=O)CC(=O)O1)C | C6H8O4
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
product | 5-bromo-2-[(carboxyacetyl)amino]benzoic acid | 0.34 g, 81% | BrC=1C=CC(=C(C(=O)O)C1)NC(CC(=O)O)=O | C10H8BrNO5
